US20010020040A1
A solution of 12 g of the plant extract obtained in Example 1 in 48 mL of pyridine was added to 9.8 mL of Ac2O and stirred at room temperature. The reaction was monitored by thin layer chromatography (TLC) (hexane-EtOAc 95:5; hyperforin Rf: 0.24; acetate Rf: 0.49). After 24 hours, the reaction mixture was diluted with water and extracted with a 3:1 hexane-ether mixture. The organic phase was washed with dilute HCl, saturated NaHCO3, and saline solution. After drying (Na2SO4) and evaporation, the residue was purified by chromatography on a silica gel column (ca 30 g), eluted first with petroleum ether to remove fats, then using hexane-EtOAc 95:5 as soon as the title compound started to elute. Hyperforin acetate (3.34 g, 0.28%) was obtained as a colorless paste with the following properties:

reactant | Ac2O | 9.8 mL | CC(=O)OC(=O)C | C4H6O3
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
reactant | hyperforin | CC(C)C(=O)[C@]12C(=O)C(=C([C@](C1=O)(C[C@@H]([C@@]2(C)CCC=C(C)C)CC=C(C)C)CC=C(C)C)O)CC=C(C)C | C35H52O4
reactant | acetate | C(C)(=O)[O-]
solvent | water | O | H2O
product | Hyperforin acetate | 3.34 g, 0.28% | CC(C)C(=O)[C@@]12C(=O)C(=C([C@](C1=O)(C[C@@H]([C@@]2(C)CCC=C(C)C)CC=C(C)C)CC=C(C)C)OC(=O)C)CC=C(C)C | C37H54O5
